US06268391B1
A slurry of 5-cyanooxindole (1.0 g, 6.3 mmol) and 10 palladium on carbon (0.05 g) in glacial acetic acid (50 mL) at room temperature was hydrogenated under 40 psi pressure for 24 hours. The catalyst was removed by filtration through a pad of diatomaceous earth and the solvent evaporated from the filtrate to leave an orange oil of 5-aminomethyloxindole as an acetate salt (1.16 g). 1H NMR (DMSO-d6) δ7.21 (s, 1H), 7.14 (d, 1H, J=7.6 Hz), 6.75 (d, 1H, J=7.6 Hz), 3.74 (s, 2H), 3.44 (s, 2H). MS (+ve ES) 146 (100), (M−NH2).

reactant | 5-cyanooxindole | 6.3 mmol, 1.0 g | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-aminomethyloxindole | NCC=1C=C2CC(NC2=CC1)=O | C9H10N2O
